### PR TITLE
Overrun

### PR DESCRIPTION
**Pull request by michaelmcinerney**
This adds handling of overrun to `refill_budget_check/refillBudgetCheck`.

As far as I understand, the most stringent real time guarantees are applicable only in systems which respect a worst case execution time for threads running in user space, as well as the kernel itself. However, we would like to be able to properly handle the case where the WCET of a thread in user space is violated - that is, we'd still like to prove functional correctness for a kernel which handles this. `handle_overrun_loop/handleOverrunLoop` has been added to `refill_budget_check/refillBudgetCheck` to achieve this.

Our current approach does not wish to statically establish an upper bound on the release time of a scheduling context on which `refill_budget_check` is called. Instead, we check throughout `handle_overrun_loop` to see whether an operation would result in overflow. 

Because of this, we can no longer work with the formulation of `bounded_release_time` that we had (which said that the release time of a scheduling context was within a certain distance of the current time). `bounded_release_time` was only being used to show that `refill_update` preserves `valid_refills` (in particular, performing `refill_update` on some scheduling context would not result in overflow). The check in `handle_overrun_loop` allows us to show another property which suffices, namely that there is no scheduling context with release time within `2 * MAX_PERIOD` of `max_time`. Since `bounded_release_time` was used in fairly few places before, and the name is still reasonable for this new property, I've decided to stick with it (but happy to change it if it's confusing)

### CODE REVIEW

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 1]
```diff
@@ -8876,57 +8871,563 @@ lemma refill_budget_sched_schedule_used_r_time_helper:
...
+    apply (metis Nitpick.size_list_simp(2) tail_nonempty_length)
+   apply (metis Nitpick.size_list_simp(2) hd_conv_nth length_greater_0_conv nth_tl)
+  apply (rule word_le_nat_alt[THEN iffD1])
+  apply (rule schedule_used_head_r_time_shift_forward)
+   apply (metis Nitpick.size_list_simp(2))
+  apply (case_tac "sc_refills sc"; rename_tac list, case_tac list; simp)
+  using no_overflow_Cons apply blast
+  done
+
+(* FIXME RT Michael: move *)
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:9076]: I will move this to where `refills_unat_sum` is defined

File: proof/invariant-abstract/DetSchedInvs_AI.thy [hunk 2]
```diff
@@ -2291,17 +2291,17 @@ abbreviation valid_ready_qs :: "'z state \<Rightarrow> bool" where
 
 lemmas valid_ready_qs_def = valid_ready_qs_2_def valid_ready_queued_thread_2_def
 
-definition bounded_release_time_2 :: "time \<Rightarrow> time \<Rightarrow> bool" where
-  "bounded_release_time_2 curtime reltime \<equiv>
-     unat reltime \<le> unat curtime + unat kernelWCET_ticks + unat MAX_PERIOD"
+definition bounded_release_time_2 :: "time \<Rightarrow> bool" where
+  "bounded_release_time_2 reltime \<equiv>
+     unat reltime + 2 * unat MAX_PERIOD \<le> unat max_time"
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/DetSchedInvs_AI.thy:2296]: If it's not too much work, can we hide this `2` under a definition or (input) abbreviation?

File: proof/refine/ARM/Ipc_R.thy [hunk 3]
```diff
@@ -2661,7 +2661,7 @@ lemma cteInsert_ct'[wp]:
 lemma maybeDonateSc_corres:
   "corres dc (tcb_at tcb_ptr and ntfn_at ntfn_ptr and invs and weak_valid_sched_action
               and valid_ready_qs and active_sc_valid_refills and valid_release_q
-              and current_time_bounded 1 and ex_nonz_cap_to tcb_ptr)
+              and current_time_bounded 2 and ex_nonz_cap_to tcb_ptr)
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2664]: Given that it was I who introduced that parameter to `current_time_bounded`, I have only myself to blame. But is it possible to replace this `2` with a non magic-number or remove the paramater altogether? Does the new strategy for dealing with current_time allow for the latter?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 4]
```diff
@@ -8876,57 +8871,554 @@ lemma refill_budget_sched_schedule_used_r_time_helper:
...
                           sc_valid_refills_def word_le_nat_alt)
    apply (subst unat_sub)
-    apply (clarsimp simp: word_le_nat_alt)
-   apply (metis (no_types) add.commute add_increasing2 diff_le_self order_trans
-                sc_valid_refills_amounts_bounded sc_valid_refills_hd_in_list unat_arith_simps(1)
-                zero_le)
+    apply force
+   apply (clarsimp simp: word_less_nat_alt unat_sub)
+   apply (frule_tac refill="refill_hd sc" in refill_budget_check_refill_amount_helper
+          ; fastforce?)
```
Comment (MitchellBuckley) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:8877]: nitpick: put semicolon on previous line?

**Review by MitchellBuckley — APPROVED** [review]
This is really great! I love the way loops and loop bodies are handled, and lots of the changes are fairly minimal. A few comments:
* nitpick on the location of semi-colons, but I know that style is not settled so I don't mind if you leave them your way.
* It would be really nice to remove the constant 5 from all of the current_time_bounded lines, if that's possible now. And then I imagine all the cases where it is 1 or 3 etc would still be fine. But I know this was already a lot of work, and I might be missing something that makes that impossible/infeasible. 
* It would be nice to abbreviate or make definition for 2 in release_time_bounded, but again I know that might be a lot of work on top of what you've done.
* The details refills work in DetSchedSchedule looks like it was difficult. The proofs there have always looked difficult. Now is not the time, but I hope one day we can streamline those a bit more. Congrats on getting them to work! Again!

File: proof/invariant-abstract/DetSchedInvs_AI.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedInvs_AI.thy:2296]: This `2` doesn't appear anywhere else, so I don't think we'd gain anything from having this as a definition or abbreviation. Happy to make a definition or abbreviation if others would like it, though

File: proof/refine/ARM/Ipc_R.thy (hunk 3 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Ipc_R.thy:2664]: We could certainly get rid of the number in `current_time_bounded`. We'd currently like `current_time_bounded 5` true after we call `getCurrentTime`. So we could define `current_time_bounded_const` as `5` (and even further abstract `getCurrentTime_buffer` to be `kernelWCET_ticks + current_time_bounded_const * MAX_PERIOD` if we'd like). The downside would be that many lemas would then be made weaker, because they require smaller constants like `1` or `2`. 

Any preference? This might be better put as a JIRA issue for now, and we can decide what'd we'd like later on when things are more settled

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 4 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:8877]: Over my dead body

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 5]
```diff
@@ -345,15 +345,46 @@ This module uses the C preprocessor to select a target architecture.
...
+> handleOverrunLoop :: Ticks -> Kernel Ticks
+> handleOverrunLoop usage =
+>     whileLoop (\usage -> fromJust . runReaderT (headTimeBuffer usage)) (\usage -> handleOverrunLoopBody usage) usage
+
 > refillBudgetCheck :: Ticks -> Kernel ()
 > refillBudgetCheck usage = do
 >     scPtr <- getCurSc
+
 >     sc <- getSchedContext scPtr
 >     assert (scRefillMax sc > 0) "CurSc should be active"
```
Comment (corlewis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs:380]: Unrelated to this PR and probably not necessary, but it might be slightly more consistent to use `scActive` here (and maybe readerfy it).
```suggestion
>     active <- scActive scPtr
>     assert active "CurSc should be active"
```

File: spec/abstract/SchedContext_A.thy [hunk 6]
```diff
@@ -264,28 +264,69 @@ where
...
+
+     when (usage' > 0 \<and> usage' < new_head_amount) $ do
+       refills \<leftarrow> get_refills sc_ptr;
+       sc \<leftarrow> get_sched_context sc_ptr;
+       period \<leftarrow> return (sc_period sc);
+       used \<leftarrow> return \<lparr>r_time = r_time (hd refills) + period, r_amount = usage'\<rparr>;
+       adjusted_hd \<leftarrow> return \<lparr>r_time = r_time (hd refills) + usage',
+                              r_amount = r_amount (hd refills) - usage'\<rparr>;
+       full \<leftarrow> refill_full sc_ptr;
+       set_refills sc_ptr $ schedule_used full (adjusted_hd # (tl refills)) used
```
Comment (corlewis) [inline spec/abstract/SchedContext_A.thy:326]: I guess it was ok since you've finished refine already, but was it an issue that the Haskell and C updates the refills in two steps while the abstract does it in one?

File: spec/abstract/SchedContext_A.thy [hunk 7]
```diff
@@ -264,28 +264,69 @@ where
...
+
+     robin \<leftarrow> is_round_robin sc_ptr;
+     assert (\<not>robin);
 
+     usage' \<leftarrow> handle_overrun_loop usage;
+
+     refills \<leftarrow> get_refills sc_ptr;
+     new_head_amount \<leftarrow> return (r_amount (hd refills));
+
+     when (usage' > 0 \<and> usage' < new_head_amount) $ do
```
Comment (corlewis) [inline spec/abstract/SchedContext_A.thy:318]: Same comment as with the Haskell, it's not immediately obvious that it's correct to have the `usage' < new_head_amount` check here.

**Review by corlewis — COMMENTED** [review]
I've still got `DetSchedSchedule_AI` to go through, but so far all the proofs look great! I have a couple of mostly unrelated comments for the specs and one potential concern about the new check in `refill_budget_check`.

File: proof/invariant-abstract/DetSchedInvs_AI.thy (hunk 2 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/DetSchedInvs_AI.thy:2296]: Cool, could you add a short comment, just a little snippet so we know why it's 2 and not 1 or 3? (Presumably it's because we the overrun code could push an sc `MAX_PERIOD` into the future, and the span of the refills could fill out another `MAX_PERIOD`?)

File: proof/refine/ARM/Ipc_R.thy (hunk 3 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2664]: JIRA issue sounds sensible.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 8]
```diff
@@ -345,15 +345,46 @@ This module uses the C preprocessor to select a target architecture.
...
+
+>     return usage'
+
+> handleOverrunLoop :: Ticks -> Kernel Ticks
+> handleOverrunLoop usage =
+>     whileLoop (\usage -> fromJust . runReaderT (headTimeBuffer usage)) (\usage -> handleOverrunLoopBody usage) usage
+
 > refillBudgetCheck :: Ticks -> Kernel ()
 > refillBudgetCheck usage = do
 >     scPtr <- getCurSc
```
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:377]: If we know that it's not round robin in the abstract or exec level, it's very straightforward to carry that down. Do we know that? I'm not sure what the setup for CRefine looks like. It's very easy to add to the Haskell, so I can certainly do that

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 9]
```diff
@@ -345,15 +345,46 @@ This module uses the C preprocessor to select a target architecture.
...
 >     assert (scRefillMax sc > 0) "CurSc should be active"
 
->     usage' <- return (min usage (rAmount (refillHd sc)))
+>     usage' <- handleOverrunLoop usage
+
+>     sc <- getSchedContext scPtr
+>     newHeadAmount <- return (rAmount (refillHd sc))
 
->     when (usage' > 0) $ do
+>     when (usage' > 0 && usage' < newHeadAmount) $ do
```
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:387]: I requested Curtis change things around so that we always had `MIN_BUDGET` in the head. The changes are here

https://github.com/kent-mcleod/seL4/pull/10/files

He is also happy with `5` in the check, but I'm not sure that's been updated in the C anywhere. (The changes to `refill_update` aren't necessary any more, and I've let Curtis know about that, too)

File: spec/abstract/SchedContext_A.thy (hunk 6 above)
Comment (michaelmcinerney) [reply spec/abstract/SchedContext_A.thy:326]: I meant to come back and clean up some of the abstract spec related to `schedule_used`. I'd prefer it to be a monadic function. `schedule_used` is now called in `handle_overrun_loop`, too, so it seems worthwhile, as long as it doesn't mess up the proofs too badly. I think I'll leave this for "another day"

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 8 above)
[the remark this answers is not in the document]
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:377]: Well, having looked a bit further, you assert that it's not round robin in the abstract spec so you must have already proven it as part of refine. If that's true then we would want to add the assert to Haskell as well, so we can reuse it during crefine. Otherwise we would have to reprove it.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 9 above)
[the remark this answers is not in the document]
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:387]: Ah, cool, that makes sense. I was looking at https://github.com/kent-mcleod/seL4/pull/7/files instead.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 8 above)
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:377]: The `corres` rules for `refillBudgeCheck` and `refillUnblockCheck` aren't done yet. That'll be fun. But OK, I'll add the assert

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 9 above)
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:387]: Yeah sorry I should have done a better job listing the various C commits

File: proof/invariant-abstract/DetSchedInvs_AI.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedInvs_AI.thy:2296]: Howsabout:

"This predicate is currently used only in `refill_update_valid_refills`, in particular, to show that performing `refill_update` will not result in overflow. The constant `2` is required because `refill_update` will schedule a refill at most `MAX_PERIOD` from the head `r_time`, of `r_amount` at most `MAX_PERIOD`"

Comment (MitchellBuckley) [reply proof/invariant-abstract/DetSchedInvs_AI.thy:2296]: Love it.

File: spec/abstract/SchedContext_A.thy (hunk 6 above)
Comment (mktnk3) [reply spec/abstract/SchedContext_A.thy:326]: > I meant to come back and clean up some of the abstract spec related to `schedule_used`. I'd prefer it to be a monadic function. `schedule_used` is now called in `handle_overrun_loop`, too, so it seems worthwhile, as long as it doesn't mess up the proofs too badly. I think I'll leave this for "another day"

Can you write down what you think we need to do in a JIRA ticket?

Comment (michaelmcinerney) [reply spec/abstract/SchedContext_A.thy:326]: I didn't mean anything substantial, just to perform the updates in `refill_budget_check` as in `refillBudgetCheck`, and to have `schedule_used` in the abstract a monadic function, as it is in the Haskell. Would you still like me to make a JIRA ticket?

Comment (mktnk3) [reply spec/abstract/SchedContext_A.thy:326]: Yes, even just a todo list would be helpful!

Comment (michaelmcinerney) [reply spec/abstract/SchedContext_A.thy:326]: https://sel4.atlassian.net/browse/VER-1396

**Review by mktnk3 — APPROVED** [review]
It is great that the overrun fix turned out to be not as bad as we feared, but still, this is again a huge chunk of work. Thanks for pushing this through, Michael. Again, it is good to see various pieces from the past work coming together nicely.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 5 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:380]: I decided against the readificationizing of `scActive`. There were a few too many lemmas that it would have touched, and it might be best to handle this in some future update that addresses reading/getting more generally

File: proof/refine/ARM/Ipc_R.thy (hunk 3 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Ipc_R.thy:2664]: https://sel4.atlassian.net/browse/VER-1397
